US07772226B2
(a) t-Butyl 4-[1-(2-butynyl)-5-ethoxycarbonyl-4-(2,2,2-trifluoro-1-hydroxyethyl)-1H-imidazol-2-yl]piperazine-1-carboxylate
0.065 g of zinc and a 2 ml N,N-dimethylformamide solution of 0.200 g of trifluoromethyl iodide were added to a 3 ml N,N-dimethylformamide solution of 0.155 g of t-butyl 4-[1-(2-butynyl)-5-ethoxycarbonyl-4-formyl-1H-imidazol-2-yl]piperazine-1-carboxylate under a nitrogen atmosphere, and the mixture was stirred under sonication for 30 minutes. 30 ml of ethyl acetate and 30 ml of a 5% ammonium chloride solution were added to the mixture. The organic layer was washed twice with 20 ml of water and then with 20 ml of a saturated sodium chloride solution, and dried over magnesium sulfate. The organic liquid was concentrated under reduced pressure. The residue was purified by silica gel column chromatography. Thus, 0.013 g of the title compound was obtained from the fraction eluted with ethyl acetate-hexane (1:9).

reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | trifluoromethyl iodide | 0.200 g | FC(F)(F)I | CF3I
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | t-butyl 4-[1-(2-butynyl)-5-ethoxycarbonyl-4-formyl-1H-imidazol-2-yl]piperazine-1-carboxylate | 0.155 g | C(C#CC)N1C(=NC(=C1C(=O)OCC)C=O)N1CCN(CC1)C(=O)OC(C)(C)C | C20H28N4O5
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | zinc | 0.065 g | [Zn] | Zn
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | t-Butyl 4-[1-(2-butynyl)-5-ethoxycarbonyl-4-(2,2,2-trifluoro-1-hydroxyethyl)-1H-imidazol-2-yl]piperazine-1-carboxylate | 0.013 g | C(C#CC)N1C(=NC(=C1C(=O)OCC)C(C(F)(F)F)O)N1CCN(CC1)C(=O)OC(C)(C)C | C21H29F3N4O5
